US07226923B2
4-(2-tert-Butyl-5-methyl-2H-pyrazol-3-ylamino)-2-(2-methoxy-ethyl)-2H-phthalazin-1-one
4-Bromo-2-(2-methoxyethyl)-4-bromo-2H-phthalazin-1-one (0.57 g, 2.0 mmol), 1-(tert-butyl)-3-methyl-1H-pyrazol-5-ylamine (0.46 g, 3.0 mmol), Cs2CO3 (0.98 mg, 3.0 mmol), tris(dibenzylideneacetone)-dipalladium (0) (0.092 g, 0.1 mmol) and 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene (0.17 mg, 0.3 mmol) were dissolved in degassed dioxane (10 ml). The reaction mixture was heated with stirring to 130° C. for 8 hours and then cooled to room temperature. H2O (100 ml) was added and the precipitated solid was filtered and washed with ethyl acetate and H2O. The raw product was purified over silica gel (ethyl acetate:heptane 0%-60% ethyl acetate) to give the title compound (0.46 g, 65% yield). 1H-NMR: (400 MHz, D6-DMSO) 8.22–8.31 (3H, m), 7.95 (1H, t), 7.86 (1H, t), 5.91 (1H, s), 4.05 (1H, t), 3.55 (1H, t), 3.17 (3H, s), 2.14 (3H, s), 1.54 (9H, s); MS (ESI+)=356.3 (M+H)+.

reactant | 4-Bromo-2-(2-methoxyethyl)-4-bromo-2H-phthalazin-1-one | 2.0 mmol, 0.57 g | BrC1(NN(C(C2=CC=CC=C12)=O)CCOC)Br | C11H12Br2N2O2
reactant | 1-(tert-butyl)-3-methyl-1H-pyrazol-5-ylamine | 3.0 mmol, 0.46 g | C(C)(C)(C)N1N=C(C=C1N)C | C8H15N3
reactant | Cs2CO3 | 3.0 mmol, 0.98 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene | 0.3 mmol, 0.17 mg | C1(=CC=CC=C1)P(C1=CC=CC=2C(C3=CC=CC(=C3OC12)P(C1=CC=CC=C1)C1=CC=CC=C1)(C)C)C1=CC=CC=C1 | C39H32OP2
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
catalyst | tris(dibenzylideneacetone)-dipalladium (0) | 0.1 mmol, 0.092 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | H2O | 100 ml | O | H2O
product | 4-(2-tert-Butyl-5-methyl-2H-pyrazol-3-ylamino)-2-(2-methoxy-ethyl)-2H-phthalazin-1-one | 0.46 g, 65% yield | C(C)(C)(C)N1N=C(C=C1NC1=NN(C(C2=CC=CC=C12)=O)CCOC)C | C19H25N5O2
